US04638067
A near solution of 0.82 g (3.0 mmole) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid and 1.4 g (10 mmole) of cyclopropyl-3-pyrrolidinemethanamine in 50 ml of acetonitrile was heated at reflux for two hours. The solvent was removed in vacuo, the residue dissolved in water, filtered through a fiber glass pad to clarify and the filtrate adjusted to pH 2.0 with 6M hydrochloric acid. The resulting clear solution was lyophilized and the residue recrystallized from ethanol to give 600 mg of 7-[3-[(cyclopropylamino)methyl]-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, mp 271°-274° C. as the hydrochloride.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.0 mmole, 0.82 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | cyclopropyl-3-pyrrolidinemethanamine | 10 mmole, 1.4 g | C1(CC1)N1CC(CC1)CN | C8H16N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-[3-[(cyclopropylamino)methyl]-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 600 mg | C1(CC1)NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C19H23FN4O3
